US04920120
7-(3-Amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid
A mixture of 0.70 g (2.50 mmol) of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.56 g (3.00 mmol) of 3-(t-butoxycarbonyl)aminopyrrolidine, 0.76 g (7.52 mmol) of triethylamine, and 25 ml of acetonitrile was refluxed for 4.5 hours, then stirred at room temperature overnight. The solids were filtered and washed with acetonitrile and ether. The crude product was dissolved in 20 ml of 6N hydrochloric acid and 20 ml of acetic acid and was stirred at room temperature for three hours. The solution was concentrated to an oil which was triturated with 2:1 ether:isopropanol. The solids were filtered and washed with ether to give 0.95 g of the title compound as the hydrochloride salt, mp >300° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 2.50 mmol, 0.70 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)O | C14H11F2NO3
reactant | 3-(t-butoxycarbonyl)aminopyrrolidine | 3.00 mmol, 0.56 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 7.52 mmol, 0.76 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-(3-Amino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 0.95 g | NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)C)F | C18H20FN3O3
